*$
*//-----------------------------------------------------------------------//
*//   Part No.    : HHXE350ARA680MF80G
*//   Date        : 2020/12/04
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2020 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT HHXE350ARA680MF80G_20deg-C 1 2

C1 4 2 5.06e-05
C2 5 2 1.36e-05
C3 6 2 2.83e-06
R1 3 4 1.06e-02
R2 4 5 1.29e-01
R3 5 6 8.39e+00
L1 1 3 2.90e-09

.ENDS
*$
